.START
..refdes	device	value	footprint	quantity
CE1	CAPACITOR	1pF	0402	1
CE2	CAPACITOR	1pF	0402	1
C1	CAPACITOR	2.2uF	0402	1
C2	CAPACITOR	2.2uF	0402	1
Cout	CAPACITOR	2.2uF	0402	1
A3	directive	.options TEMP=25	unknown	1
A1	model	unknown	unknown	1
Q1	NPN_TRANSISTOR	unknown	unknown	1
Q2	NPN_TRANSISTOR	unknown	unknown	1
R8	RESISTOR	1	0402	1
R5	RESISTOR	10	0402	1
RE1	RESISTOR	100	0402	1
RE2	RESISTOR	100	0402	1
RL	RESISTOR	100K	0402	1
RC2	RESISTOR	1K	0402	1
R4	RESISTOR	2.8K	0402	1
R1	RESISTOR	28K	0402	1
R3	RESISTOR	28K	0402	1
R2	RESISTOR	2K	0402	1
RC1	RESISTOR	3.3K	0402	1
.END
